US07547691B2
[4(cis)-Aminomethylcyclohexylmethyl]-(4-benzo[b]thiophen-2-ylpyrimidin-2-yl)-amine
A solution of cis-{4-[(4-benzo[b]thiophen-2-yl-pyrimidin-2-ylamino)-methyl]-cyclohexylmethyl}-carbamic acid tert-butyl ester (20 mg, 0.044 mmol) in MeOH (2 mL) is treated at ambient temperature with 10% HCl (2 mL), and the mixture is heated at 110° C. for 15 hours. At ambient temperature the mixture is diluted with dichloromethane (10 mL), washed with 1N NaOH (2 mL), and dried (MgSO4). After concentration in vacuo, the title compound is obtained (15.6 mg, 90% yield). ES+(m/z) 353 [M+H].

reactant | cis-{4-[(4-benzo[b]thiophen-2-yl-pyrimidin-2-ylamino)-methyl]-cyclohexylmethyl}-carbamic acid tert-butyl ester | 0.044 mmol, 20 mg | C(C)(C)(C)OC(NC[C@@H]1CC[C@@H](CC1)CNC1=NC=CC(=N1)C1=CC2=C(S1)C=CC=C2)=O | C25H32N4O2S
reactant | HCl | 2 mL | Cl | ClH
solvent | MeOH | 2 mL | CO | CH4O
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | [4(cis)-Aminomethylcyclohexylmethyl]-(4-benzo[b]thiophen-2-ylpyrimidin-2-yl)-amine | 90% yield | NC[C@H]1CC[C@H](CC1)CNC1=NC=CC(=N1)C1=CC2=C(S1)C=CC=C2 | C20H24N4S
